US08053438B2
To a solution of 1-tert-butyl 4-methyl 4-(3-(4-(benzo[d]thiazol-2-ylamino)phenoxy)pyrazin-2-yl)piperidine-1,4-dicarboxylate (266 mg, 0.474 mmol) in DCM (10 mL) was added (Boc)2O, 1M in THF (0.5 mL, 0.500 mmol). After 24 hours, the crude reaction was adsorbed onto a plug of silica gel and chromatographed through a Redi-Sep® pre-packed silica gel column (12 g), eluting with 0% to 50% EtOAc in hexane, to provide 1-tert-butyl 4-methyl 4-(3-(4-(benzo[d]thiazol-2-yl(tert-butoxycarbonyl)amino)phenoxy)pyrazin-2-yl)piperidine-1,4-dicarboxylate (122 mg, 0.184 mmol) as a colorless oil.

reactant | 1-tert-butyl 4-methyl 4-(3-(4-(benzo[d]thiazol-2-ylamino)phenoxy)pyrazin-2-yl)piperidine-1,4-dicarboxylate | 0.474 mmol, 266 mg | S1C(=NC2=C1C=CC=C2)NC2=CC=C(OC=1C(=NC=CN1)C1(CCN(CC1)C(=O)OC(C)(C)C)C(=O)OC)C=C2 | C29H31N5O5S
reactant | (Boc)2O | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | THF | 0.500 mmol, 0.5 mL | C1CCOC1 | C4H8O
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 1-tert-butyl 4-methyl 4-(3-(4-(benzo[d]thiazol-2-yl(tert-butoxycarbonyl)amino)phenoxy)pyrazin-2-yl)piperidine-1,4-dicarboxylate | 0.184 mmol, 122 mg | S1C(=NC2=C1C=CC=C2)N(C2=CC=C(OC=1C(=NC=CN1)C1(CCN(CC1)C(=O)OC(C)(C)C)C(=O)OC)C=C2)C(=O)OC(C)(C)C | C34H39N5O7S
